US09217078B2
(b) Propylene/Ethylene/1-Butene Random Copolymer (PEBR)
Ethylene content=14.0 mol %, 1-Butene content=20 mol %, MFR=8.5 g/10 min, Melting point=not observed (ΔH: less than 0.5 J/g), Molecular weight distribution (Mw/Mn)=2.0, mm-Fraction=92%

reactant | Ethylene | C=C | C2H4
reactant | 1-Butene | C=CCC | C4H8
product | Propylene/Ethylene/1-Butene | C=CC.C=C.C=CCC | InChI=1S/C4H8.C3H6.C2H4/c1-3-4-2;1-3-2;1-2/h3H,1,4H2,2H3;3H,1H2,2H3;1-2H2
